US08461134B2
4-Amino-2-cyano-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide
To a solution of 2-cyano-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-4-nitrobenzenesulfonamide (400 mg, 1.1 mmol) in MeOH/DMSO (40 ml/1 ml) was added Raney Ni (100 mg) under nitrogen, then the solution was stirred under hydrogen atmosphere at room temperature for 2 hours. The mixture was filtered and the filtrate was concentrated. The residue was purified by prep. HPLC (column: YMC AQ 150×30.0 mm, 5 u; liquid phase: [A-H2O+0.075% TFA; B-MeCN+0.075% TFA] B %: 18%-48%, 10 min) to give the title compound (100 mg, 27.62%) as a yellow solid. 1H NMR: DMSO 400 MHz δ10.25 (s, 1H), 9.21 (s, 1H), 7.60 (d, J=9.6 Hz, 1H), 7.43 (s, 1H), 7.26 (d, J=8.4 Hz, 1H), 7.17 (d, J=9.2 Hz, 1H), 6.92 (s, 1H), 6.77 (d, J=10.4 Hz, 1H), 6.44 (brs, 2H), 4.89 (s, 2H). ESI-MS m/z 330 (M+H, positive); HPLC purity: 97.31% (MaxPlot 190-370 nm), 99.89% (220 nm).

reactant | 2-cyano-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-4-nitrobenzenesulfonamide | 1.1 mmol, 400 mg | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1 | C14H10BN3O6S
solvent | MeOH DMSO | 40 ml | CO.CS(=O)C
catalyst | Ni | 100 mg | [Ni] | Ni
product | 4-Amino-2-cyano-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 100 mg, 27.62% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)C#N | C14H12BN3O4S
